US06096743
By using 6.32 g of 5-chloro-2,4-difluoronitrobenzene, 9.91 g of triethylamine, 60 ml of DMF, 60 ml of THF and 4.56 g of glycine ethyl ester hydrochloride, 0.66 g (7%) of N-(4-chloro-5-fluoro-2-nitrophenyl)glycine ethyl ester was obtained.

reactant | 5-chloro-2,4-difluoronitrobenzene | 6.32 g | ClC=1C(=CC(=C(C1)[N+](=O)[O-])F)F | C6H2ClF2NO2
reactant | triethylamine | 9.91 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | glycine ethyl ester hydrochloride | 4.56 g | Cl.C(C)OC(CN)=O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-(4-chloro-5-fluoro-2-nitrophenyl)glycine ethyl ester | 0.66 g, 7% | C(C)OC(CNC1=C(C=C(C(=C1)F)Cl)[N+](=O)[O-])=O | C10H10ClFN2O4
